US05334608
2.26 g (10.4mmol) of 2-(2-fluorobenzyl)-2-(1-cyanocyclo-propyl)-oxirane in 10 ml of dimethylformamide are added dropwise at 80° C. with stirring to a solution of 0.23 g (2.1 mmol) of potassium tert.-butylate and 2.15 g (31.2 mmol) of 1,2,4-triazole in 10 ml of dimethylformamide. When the addition has ended, stirring of the reaction mixture is continued for 4 hours at 80° C. The mixture is subsequently concentrated under reduced pressure, and the residue is taken up in ethyl acetate/water. The aqueous phase is extracted three times using ethyl acetate. The combined organic extracts are dried over sodium sulphate, concentrated under reduced pressure and chromatographed on silica gel using the eluent cyclohexane/ethyl acetate =1:1. 1.37 g (46% of theory) of 1-(2-fluorophenyl)-2-(1-cyanocyclopropyl)-3-(1,2,4-triazol-1-yl)-propan -2-ol are isolated.

reactant | 2-(2-fluorobenzyl)-2-(1-cyanocyclo-propyl)-oxirane | 10.4mmol, 2.26 g | FC1=C(CC2(OC2)C2(CC2)C#N)C=CC=C1 | C13H12FNO
reactant | 1,2,4-triazole | 31.2 mmol, 2.15 g | N1N=CN=C1 | C2H3N3
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(2-fluorophenyl)-2-(1-cyanocyclopropyl)-3-(1,2,4-triazol-1-yl)-propan -2-ol | 1.37 g, 46% | FC1=C(C=CC=C1)CC(CN1N=CN=C1)(O)C1(CC1)C#N | C15H15FN4O
